US08039495B2
A solution of {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester (17 g, 36 mmol) in dioxane (400 mL) was treated with a solution of LiOH (4.4 g, 180 mmol) in water (400 mL) at room temperature for 12 h, followed by acidification with dilute HCl to pH-2-4. The mixture was extracted with ethyl acetate (3 times). The combined layer was washed with water and brine, dried over sodium sulfate, filtered, and evaporated to give {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-methyl-amino}-acetic acid as an off-white solid, 13.5 g (85%), after drying in high vacuum at 60° C. for 48 h. LC-MS (ES) calculated for C26H25F2NO5, 441; found m/z 442 [M+H]+.

reactant | {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester | 36 mmol, 17 g | C(C)OC(CN(C)C(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O)=O | C26H25F2NO5
reactant | LiOH | 180 mmol, 4.4 g | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | water | 400 mL | O | H2O
product | {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-methyl-amino}-acetic acid | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C(C(=O)N(C)CC(=O)O)C=CC1)OC | C24H21F2NO5
